US07342014B2
2′-Aminosulfonyl-1,1′-biphenyl-4-carboxylic acid
2-Bromobenzenesulfonamide (800 mg) and 4-carboxyphenylboronic acid (563 mg) were suspended in a mixed solvent of toluene (5 ml) and water (5 ml). Tetrakis(triphenylphosphine)palladium (392 mg) and anhydrous sodium carbonate (1.08 g) were successively added to the suspension, and the mixture was heated under reflux overnight. After the reaction mixture was cooled to room temperature, diethyl ether and water were added to conduct liquid separation. The resultant organic layer was extracted twice with water. The resultant water layers were all combined, and 12N hydrochloric acid was added to this solution to acidify it. The solution was concentrated to about 20 ml under reduced pressure. Colorless powder deposited was collected by filtration and dried under reduced pressure to obtain the title compound (539 mg).

reactant | 2-Bromobenzenesulfonamide | 800 mg | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | 4-carboxyphenylboronic acid | 563 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 1.08 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium | 392 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 2′-Aminosulfonyl-1,1′-biphenyl-4-carboxylic acid | 539 mg | NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C13H11NO4S
